US08404684B2
Step 2) [3-(1,3-Dioxo-1,3-dihydro-isoindol-2-yl)-pyrazol-1-yl]-acetic acid tert-butyl ester
Sodium hydride (60% in oil, 0.538 g, 13.4 mmol) is added to a stirred solution of 2-(1H-pyrazol-3-yl)-isoindole-1,3-dione (2.39 g, 11.2 mmol) in dry DMF (25 ml) at room temperature. After 10 minutes tert-butyl bromoacetate (1.81 ml, 11.2 mmol) is added and the reaction is stirred for 18 hours. The reaction is quenched with water (1 ml), ethyl acetate (150 ml) is added and the organic phase is washed with water (3×100 ml) followed by brine (1×100 ml). The solvent is removed and the product is purified by chromatography on silica (gradient elution: ethyl acetate—hexane) to give the titled compound.

reactant | Sodium hydride | 13.4 mmol, 0.538 g | [H-].[Na+]
reactant | 2-(1H-pyrazol-3-yl)-isoindole-1,3-dione | 11.2 mmol, 2.39 g | N1N=C(C=C1)N1C(C2=CC=CC=C2C1=O)=O | C11H7N3O2
reactant | tert-butyl bromoacetate | 11.2 mmol, 1.81 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | [3-(1,3-Dioxo-1,3-dihydro-isoindol-2-yl)-pyrazol-1-yl]-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1N=C(C=C1)N1C(C2=CC=CC=C2C1=O)=O)=O | C17H17N3O4
